### PR TITLE
feat: restricted power series form a ring

### PR DESCRIPTION
**Pull request by WilliamCoram**
We define restricted powerseries over a normed ring R, and show they form a ring when R has the ultrametric property.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Ring/Ultra.lean [hunk 1]
```diff
@@ -75,4 +75,19 @@ lemma norm_intCast_le_one (z : ℤ) :
...
+open Metric NNReal
+
+variable {R : Type*} [NormedRing R] [IsUltrametricDist R]
+
+lemma exists_norm_finset_add_le {t : Type*} (s : Finset t) [Nonempty t] (f : t → R) :
+    ∃ i : t, (s.Nonempty → i ∈ s) ∧ ‖∑ i ∈ s, f i‖ ≤ ‖f i‖ := by
+  rcases s.eq_empty_or_nonempty with rfl | hs
+  · simp only [Finset.not_nonempty_empty, Finset.not_mem_empty, imp_self, Finset.sum_empty,
+    norm_zero, norm_nonneg, and_self, exists_const]
+  · exact exists_norm_finset_sum_le s f
```
Comment (Paul-Lez) [inline Mathlib/Analysis/Normed/Ring/Ultra.lean:89]: Isn't this already `exists_norm_finset_sum_le`? Notice that the proof can be golfed down to `:= exists_norm_finset_sum_le s f` ;)

File: Mathlib/RingTheory/PowerSeries/Restricted.lean [hunk 2]
```diff
@@ -0,0 +1,227 @@
+import Mathlib.Analysis.Normed.Group.Ultra
```
Comment (Paul-Lez) [inline Mathlib/RingTheory/PowerSeries/Restricted.lean:1]: You'll need to add a file header here - [see here for how to set things up](https://leanprover-community.github.io/contribute/style.html#header-and-imports)

File: Mathlib/RingTheory/PowerSeries/Restricted.lean [hunk 3]
```diff
@@ -0,0 +1,227 @@
...
+import Mathlib.Analysis.RCLike.Basic
+import Mathlib.Data.Real.StarOrdered
+import Mathlib.RingTheory.PowerSeries.Basic
+import Mathlib.Analysis.Normed.Ring.Ultra
+
+variable (c : NNReal) (R : Type*) [NormedRing R]
```
Comment (Paul-Lez) [inline Mathlib/RingTheory/PowerSeries/Restricted.lean:7]: It's always useful to have a [module docstring](https://leanprover-community.github.io/contribute/style.html#module-docstrings) to give a brief description of the mathematical contents of your file + the main results and definitions!

Comment (Paul-Lez) [inline Mathlib/RingTheory/PowerSeries/Restricted.lean:7]: One small remark: I would be tempted to extend the definition to allow for arbitrary real numbers `c` (and then restrict to non-negativity in theorems when relevant)

File: Mathlib/RingTheory/PowerSeries/Restricted.lean [hunk 4]
```diff
@@ -0,0 +1,227 @@
...
+open PowerSeries Filter IsUltrametricDist
+open scoped Topology
+
+/-- The convergence property for restricted powerseries. -/
+def Convergent (f : PowerSeries R) : Prop :=
+  Tendsto (fun (i : ℕ) => (norm (coeff R i f)) * c^i) atTop (𝓝 0)
+
+/-- The set of restricted powerseries over a normed ring `R` for a given parameter `c` as a subset
+of the powerseries over `R`. -/
+def CRestrictedPowerSeries : Set (PowerSeries R) :=
```
Comment (Paul-Lez) [inline Mathlib/RingTheory/PowerSeries/Restricted.lean:18]: I think it might be more idiomatic to structure your file roughly in the same way as [homogeneous (multivariate) polynomials](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/MvPolynomial/Homogeneous.html#MvPolynomial.IsHomogeneous): 
- Working with a predicate `IsCRestrictedPowerSeries` (i.e. your `Convergent`) and stating properties below in terms of this, e.g the first result in your file would be something like 
```
theorem isCRestrictedPowerSeries_zero : IsCRestrictedPowerSeries c R 0 := ...
```
- One this is done, defining the algebraic structures.

This may be worth asking about on the Zulip (in the PR review channel)

File: Mathlib/RingTheory/PowerSeries/Restricted.lean [hunk 5]
```diff
@@ -0,0 +1,227 @@
...
+  {f | Convergent c R f}
+
+namespace CRestrictedPowerSeries
+
+def zero : (0 : PowerSeries R) ∈ CRestrictedPowerSeries c R := by
```
Comment (Paul-Lez) [inline Mathlib/RingTheory/PowerSeries/Restricted.lean:23]: This should be a `lemma` or a `theorem` rather than a definition.

File: Mathlib/RingTheory/PowerSeries/Restricted.lean [hunk 6]
```diff
@@ -0,0 +1,227 @@
...
+import Mathlib.RingTheory.PowerSeries.Basic
+import Mathlib.Analysis.Normed.Ring.Ultra
+
+variable (c : NNReal) (R : Type*) [NormedRing R]
+
+open PowerSeries Filter IsUltrametricDist
+open scoped Topology
+
+/-- The convergence property for restricted powerseries. -/
+def Convergent (f : PowerSeries R) : Prop :=
```
Comment (Paul-Lez) [inline Mathlib/RingTheory/PowerSeries/Restricted.lean:13]: There also seems to be a more general definition of restricted power series available for arbitrary topological rings - is your plan to connect the two at a later stage? It may be worth discussing this on Zulip to ask for maintainer feedback on this!

File: Mathlib/Analysis/Normed/Ring/Ultra.lean (hunk 1 above)
Comment (WilliamCoram) [reply Mathlib/Analysis/Normed/Ring/Ultra.lean:89]: Yes, you're right - it's what I was basing the lemma off. For some reason when I had tried using the lemma initially it always gave errors. I was probably being stupid. Thanks for pointing this out!

Comment (Paul-Lez) [reply Mathlib/Analysis/Normed/Ring/Ultra.lean:89]: No problem! (this happens more often than you might expect;))

File: Mathlib/RingTheory/PowerSeries/Restricted.lean (hunk 3 above)
Comment (WilliamCoram) [reply Mathlib/RingTheory/PowerSeries/Restricted.lean]: I managed to extend everything to all natural numbers! I think classically we only use positive `c` but via `Equiv_cToAbs` it does not really matter.

File: Mathlib/RingTheory/PowerSeries/Restricted.lean (hunk 4 above)
Comment (WilliamCoram) [reply Mathlib/RingTheory/PowerSeries/Restricted.lean]: My supervisor and I agreed on this; I have pushed everything to adapt to this notation for now.

**Comment by grunweg** [comment]
@WilliamCoram Can you fix the failing build, please? (Otherwise, this PR will not appear on the review queue - which makes it much less likely for reviewers to notice it.)

**Comment by grunweg** [comment]
If you'd like help, feel free to ask on zulip, e.g. in the new members channel!

**Comment by WilliamCoram** [comment]
Closed as moved file to a fork to meet contribution guidelines.
